US07045516B1
(a) 4-Chloro-2,3-dimethyl-6-nitrophenol
2,3-Xylenol (5 g, 40.9 mmol) was dissolved in toluene (100 ml), and the solution was added with 2-aminopyridine (0.3 g, 3.2 mmol). The mixture was added with thionyl chloride (3.3 ml) at room temperature with stirring, and then stirred at 7 C.° for 15 hours. The reaction mixture was cooled to room temperature, and then excessive reagents and solvent were evaporated under reduced pressure to obtain an oily substance. The substance was dissolved in acetic acid (12.5 ml), and the solution was added with concentrated sulfuric acid (50 ml), and then added dropwise with a mixed acid (2.5 ml of 70% nitric acid+10 ml of concentrated sulfuric acid) at room temperature over 30 minutes or more. The mixture was further stirred for 2 hours, and poured into iced water (500 ml). The precipitates were collected by filtration, and dried to obtain a crude product (3.8 g). The product was purified by silica gel column chromatography (n-hexane:ethyl acetate=2:1 v/v) to obtain the title compound (1.5 g).

reactant | 2,3-Xylenol | 40.9 mmol, 5 g | C1(=C(C(=CC=C1)C)C)O | C8H10O
reactant | 2-aminopyridine | 3.2 mmol, 0.3 g | NC1=NC=CC=C1 | C5H6N2
reactant | thionyl chloride | 3.3 ml | S(=O)(Cl)Cl | Cl2OS
reactant | sulfuric acid | 50 ml | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 2.5 ml | [N+](=O)(O)[O-] | HNO3
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | acetic acid | 12.5 ml | C(C)(=O)O | C2H4O2
solvent | water | 500 ml | O | H2O
product | 4-Chloro-2,3-dimethyl-6-nitrophenol | 1.5 g | ClC1=C(C(=C(C(=C1)[N+](=O)[O-])O)C)C | C8H8ClNO3
